US07420059B2
A solution of (MeSO2)2O (15.9 g, 0.091 mol) in anhydrous CH2Cl2 (50 mL) was added to a solution of Part C methyl 4-(4-fluorophenyl)-2-isopropyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate (10. g, 0.030 mol) and 3,5-lutidine (20.9 mL, 0.182 mol) in anhydrous toluene (100 mL) at room temperature. The reaction mixture was stirred at room temperature for 3 days. Ethyl acetate (200 mL) and H2O (50 mL) were added, and the resulting two phases were separated. The organic phase was washed with aqueous NaHCO3 (5%, 50 mL), followed by half-saturated brine (50 mL). The solvent was removed under reduced pressure to afford a yellowish oil which solidified slowly. The crude material was recrystallized from i-PrOH/H2O (85:15, 45 mL) to afford 10.5 g (85% yield) of methyl 4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate as a off-white solid.

reactant | (MeSO2)2O | 0.091 mol, 15.9 g | O(S(=O)(=O)C)S(=O)(=O)C | C2H6O5S2
reactant | methyl 4-(4-fluorophenyl)-2-isopropyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate | 0.030 mol | FC1=CC=C(C=C1)C1=C(C(=NC=2NCCCC12)C(C)C)C(=O)OC | C19H21FN2O2
reactant | 3,5-lutidine | 0.182 mol, 20.9 mL | N1=CC(=CC(=C1)C)C | C7H9N
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 50 mL | O | H2O
product | methyl 4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate | 10.5 g, 85% yield | FC1=CC=C(C=C1)C1=C(C(=NC=2N(CCCC12)S(=O)(=O)C)C(C)C)C(=O)OC | C20H23FN2O4S
